US06126734
o-hydroxybenzaldehyde;
p-methoxybenzaldehyde; 2-hydroxy-p-tolualdehyde; 4-hydroxy-o-tolualdehyde; 6-hydroxy-m-tolualdehyde; and 4-hydroxy-m-tolualdehyde.

reactant | p-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 2-hydroxy-p-tolualdehyde | OC1=C(C=CC(=C1)C=O)C | C8H8O2
reactant | 4-hydroxy-o-tolualdehyde | OC=1C=C(C(=CC1)C)C=O | C8H8O2
reactant | 6-hydroxy-m-tolualdehyde | OC1=CC=C(C=C1C)C=O | C8H8O2
reactant | 4-hydroxy-m-tolualdehyde | OC1=C(C=C(C=C1)C)C=O | C8H8O2
product | o-hydroxybenzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
